US06169088A
To a solution of 2.60 g (14.6 mmol) of 4-morpholinoaniline in 20 ml of methylene chloride were added 14.07 ml (105 mmol) of triethylamine and 3.53 g (17.5 mmol) of 4-nitrophenyl chloroformate under ice-cooling, followed by stirring at room temperature for 7 hours. After the solvent was evaporated, water was added to the residue, and the precipitated crystals were collected by filtration, washed water, and dried to give 4-morpholino-N-(4-nitrophenoxycarbonyl)aniline.

reactant | 4-morpholinoaniline | 14.6 mmol, 2.60 g | O1CCN(CC1)C1=CC=C(N)C=C1 | C10H14N2O
reactant | triethylamine | 105 mmol, 14.07 ml | C(C)N(CC)CC | C6H15N
reactant | 4-nitrophenyl chloroformate | 17.5 mmol, 3.53 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 4-morpholino-N-(4-nitrophenoxycarbonyl)aniline | O1CCN(CC1)C1=CC=C(NC(=O)OC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C17H17N3O5
